US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 3,4-difluoroaniline to yield 2-[(3,4-difluorophenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 3,4-difluoroaniline | FC=1C=C(N)C=CC1F | C6H5F2N
product | 2-[(3,4-difluorophenyl)amino]phenylacetic acid | FC=1C=C(C=CC1F)NC1=C(C=CC=C1)CC(=O)O | C14H11F2NO2
